US07189851B2
D. 4-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-3,5-bis(ethoxycarbonyl)-6-(4-methylpentyl)-4-pyridinyl]benzoic acid
4-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-3,5-bis(ethoxycarbonyl)-6-(4-methylpentyl)-1,4-dihydro-4-pyridinyl]benzoic acid was dissolved in a 50:50 mixture of acetonitrile:H2O. To the mixture cerium ammonium nitrate was added (6.65 g, 10.3 mmol) and allowed to stir for 45 minutes. The reaction mixture was dissolved in 100 mL of ethyl acetate and washed with H2O (2×50 mL) and brine. The organics were then dried over sodium sulfate, filtered and concentrated to yield a orange/red oil which was purified by column chromatography (ethyl acetate/hexanes (4:1)) to give 2.0 g of a solid.

reactant | 4-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-3,5-bis(ethoxycarbonyl)-6-(4-methylpentyl)-1,4-dihydro-4-pyridinyl]benzoic acid | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=C(C(C1C(=O)OCC)C1=CC=C(C(=O)O)C=C1)C(=O)OCC)CCCC(C)C | C33H46N2O8
reactant | H2O | O | H2O
reactant | cerium ammonium nitrate | [N+](=O)([O-])[O-].[NH4+].[Ce]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-3,5-bis(ethoxycarbonyl)-6-(4-methylpentyl)-4-pyridinyl]benzoic acid | 2.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1=NC(=C(C(=C1C(=O)OCC)C1=CC=C(C(=O)O)C=C1)C(=O)OCC)CCCC(C)C | C33H44N2O8
